US06573391B1
3,5 g of crude ethyl (RS)-2-allyloxy-propionate are introduced into 24 ml of MeOH/H2O=3:1, cooled to 0° C., and then 2.2 g (30 mmol) of LiOH·H2O are added in portions. The mixture is further stirred for 5 minutes before the ice cooling is removed and the mixture is stirred for a further 1 h at room temperature. Methanol is then removed on a rotary evaporator and the residue is taken up in water. The aqueous phase is firstly extracted with Et2O in order then to be acidified to pH 1 with 6N HCl. The aqueous phase is then saturated with NaCl and extracted three times with EtOAc. The combined organic phases are dried over Na2SO4, filtered and freed from solvent on a rotary evaporator. The resulting carboxylic acid is dissolved in 40 ml of toluene and treated with 4.7 g (30 mmol) of 9-decen-1-ol and 0.38 g (2 mmol) of p-toluenesulfonic acid. The mixture is then heated using a water separator until visible amounts of water no longer separate out. After cooling to room temperature, the reaction solution is once again wash ed with saturated NaHCO3 solution, then dried over Na2SO4, filtered and freed from solvent on a rotary evaporator. Flash chromatography (cyclohexane/EtOAc=20:1, Rf=0.31) over silica gel gives 2.8 g (52.2%) of dec-9-enyl (RS)-2-allyloxy-propionate as a colorless oil.

reactant | ethyl (RS)-2-allyloxy-propionate | 3,5 g | C(C=C)OC(C(=O)OCC)C | C8H14O3
reactant | LiOH·H2O | 30 mmol, 2.2 g | O[Li].O
reactant | 9-decen-1-ol | 30 mmol, 4.7 g | C(CCCCCCCC=C)O | C10H20O
reactant | p-toluenesulfonic acid | 2 mmol, 0.38 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | MeOH H2O | 24 ml | CO.O
product | dec-9-enyl (RS)-2-allyloxy-propionate | 2.8 g, 52.2% | C(C=C)OC(C(=O)OCCCCCCCCC=C)C | C16H28O3
